US09238640B2
To a suspension of 2-amino-5-(4-methyl-piperazin-1-ylmethyl)benzoic acid methyl ester (4.30 g, 10.0 mmol) in water (30 mL) and methanol (10 mL) was added lithium hydroxide (1.26 g, 30.0 mmol); the mixture was stirred at room temperature for 12 hours. An additional amount of lithium hydroxide (0.6 g, 15.0 mmol) was added, and heated at 40° C. for 15 hours; TLC indicated completion of the reaction. The mixture was cooled, concentrated, the residue was adjusted to pH ˜5 with 6 N HCl, and evaporated to dryness, to provide crude 2-amino-5-(4-methyl-piperazin-1-ylmethyl)benzoic acid. Yield: 6.2 g, along with inorganic salt. It was used in the next step without further purification.

reactant | 2-amino-5-(4-methyl-piperazin-1-ylmethyl)benzoic acid methyl ester | 10.0 mmol, 4.30 g | COC(C1=C(C=CC(=C1)CN1CCN(CC1)C)N)=O | C14H21N3O2
reactant | lithium hydroxide | 30.0 mmol, 1.26 g | [OH-].[Li+]
reactant | lithium hydroxide | 15.0 mmol, 0.6 g | [OH-].[Li+]
solvent | water | 30 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2-amino-5-(4-methyl-piperazin-1-ylmethyl)benzoic acid | NC1=C(C(=O)O)C=C(C=C1)CN1CCN(CC1)C | C13H19N3O2
